US20010053779A1
A mixture comprising of 3,4-diaminophenol (3.661 g, 29.5 mL), ethyl 2-(N-ethoxyamidino)propionate (7.423 g, 38.4 mmol) and ethanol (30 mL) was heated at reflux for 6 hours and concentrated in vacuo. The residue was dissolved in ethyl acetate (200 mL) and the solution was washed with saturated aqueous sodium hydrogencarbonate (3×20 mL) and brine (1×20 mL), dried (MgSO4) and concentrated in vacuo to provide ethyl 2-(5-hydroxy-1H-benzoimidazol-2-yl)propionate (6.3 g, 91% yield) as a dark solid. The solid was further purified by silica gel flash chromatography (100% ethyl acetate); MS (PB-PCI) C12H14N2O3 m/e calc 234.28; found 235 (MH+).

reactant | 3,4-diaminophenol | 29.5 mL, 3.661 g | NC=1C=C(C=CC1N)O | C6H8N2O
reactant | ethyl 2-(N-ethoxyamidino)propionate | 38.4 mmol, 7.423 g | C(C)ONC(=N)C(C(=O)OCC)C | C8H16N2O3
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | ethyl 2-(5-hydroxy-1H-benzoimidazol-2-yl)propionate | 6.3 g, 91% yield | OC1=CC2=C(NC(=N2)C(C(=O)OCC)C)C=C1 | C12H14N2O3
